US05728907
n-Nonadecylmagnesium bromide (0.33 moles) in ethyl ether is slowly added to 0.33 mole of diethylcarbonate in 100 ml diethyl ether and stirred for one hour at 30° C. (nitrogen atmosphere). n-Tetradecylmagnesium bromide (0.33 mole) is slowly added to the solution and stirred for one hour at 30° C. n-Decylmagnesium bromide (0.33 mole) is slowly added to the solution and stirred for one hour at 30° C. The mixture is then slowly poured into 600 ml of a cold 10% HCl solution. The organic layer is dried with magnasium sulfate and the ethyl ether evaporated off to give n-nonadecyl-n-tetradecyl-n-decylcarbinol.

reactant | n-Nonadecylmagnesium bromide | 0.33 moles | C(CCCCCCCCCCCCCCCCCC)[Mg]Br
reactant | diethylcarbonate | 0.33 mole | C(C)OC(OCC)=O | C5H10O3
reactant | n-Tetradecylmagnesium bromide | 0.33 mole | C(CCCCCCCCCCCCC)[Mg]Br
reactant | n-Decylmagnesium bromide | 0.33 mole | C(CCCCCCCCC)[Mg]Br
reactant | HCl | Cl | ClH
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | n-nonadecyl-n-tetradecyl-n-decylcarbinol | C(CCCCCCCCCCCCCCCCCC)C(O)(CCCCCCCCCC)CCCCCCCCCCCCCC | C44H90O
